US06858651B2
A solution of 6 g (19.26 mmol) trans-3-[4-(tert-Butoxy carbonyl methyl-amino)-cyclohexyl]-acrylic acid ethyl-ester and 600 mg of Pd/C (10%) was stirred over H2-atmosphere for 20 h. After filtration of the solution, the methanol was evaporated under reduced pressure to yield 5.82 g of clean trans-3-[4-(tert-Butoxycarbonyl methyl-amino)cyclohexyl]-propanoic acid ethyl-ester. To a solution of this ester in 60 ml of THF was added 917 mg (40 mmol) LiBH4. The solution was refluxed for 8 h and then cooled with an ice-bath to 0° C. At this temperature was dropped slowly 1N HCl to the reaction-mixture to destroy excess of LiBH4. The reaction-mixture was diluted with Et2O and then washed with water. The organic layers were evaporated to dryness to yield 3.39 g (73%) of clean trans-[4-(3-Hydroxy-propyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester, MS: 271 (M).

reactant | trans-3-[4-(tert-Butoxy carbonyl methyl-amino)-cyclohexyl]-acrylic acid ethyl-ester | 19.26 mmol, 6 g | C(C)OC(C=C[C@@H]1CC[C@H](CC1)N(C)C(=O)OC(C)(C)C)=O | C17H29NO4
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | trans-3-[4-(tert-Butoxycarbonyl methyl-amino)cyclohexyl]-propanoic acid ethyl-ester | 5.82 g | C(C)OC(CC[C@@H]1CC[C@H](CC1)N(C)C(=O)OC(C)(C)C)=O | C17H31NO4
